US04927838
As in Example 112, (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester (1.55 g) in methanol (20 mL) was treated with 2N sodium hydroxide solution (4 mL) at reflux for 2 hours and the normal isolation procedure afforded 1.45 g of (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid. Crystallization of a sample from diethyl ether gave the analytical specimen. Anal. Calcd for C18H20O3 : C, 76.03; H, 7.09 Found: C, 75.66; H, 7.13

reactant | (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester | 1.55 g | COC(\C=C\C1=C(C2=CC(=CC=C2C=C1)OC)CCCC)=O | C19H22O3
reactant | sodium hydroxide | 2N, 4 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid | 1.45 g | C(CCC)C1=C(C=CC2=CC=C(C=C12)OC)/C=C/C(=O)O | C18H20O3
